Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Levaquin
 
Attending: ___.
 
Chief Complaint:
hypoxia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Pt is a ___ y.o female with h.o ___ disease,
esophageal dysmotility, reactive airway disease requiring
levoalbuterol who presented with SOB. According to her son, pt
has had increasing cough and congestion over the past few days
and woke up this am where she was sating in the high 80's until
she was able to sit upright and then O2 sats improved to the low
90's. He reports baseline sats in the high 90's. Pt's son 
reports
her cough sounds worse and she's having difficulty coughing up
phlegm. Pt reports increased SOB. Pt's son reports that pt 
having
more difficulty getting up into the commode due to SOB but 
denies
fever, CP, nausea, vomiting, abdominal pain, change in bowel or
bladder habits. 

Of note, pt recently admitted ___ for UTI/encephalopathy 
tx
with cefpodoxime. 

In the ED, pt noted to have b/l crackles. She reportedly has 
been
to the ED twice in the last 2 days due to increasing SOB and
cough. 
In the ED, she was given carbidopa-levodopa, nebs, 125mg IV
solumedrol. 
Last set of  vitals T 97.6 BP 9545 HR 64RR 25 sat 97% on 2L

Currently, pt reports cough with phlegm and minor SOB. Denies 
CP,
palpitations, abdominal pain, n/v/d/c, dysuria, CP, 
palpitations.

10pt ROS reviewed and otherwise negative.
 
Past Medical History:
___ Disease  
 HTN  
 Bronchitis  
 Bilateral blindness  
 Reactive airway disease  
 Hypothyroidism  
 HLD  

 
Social History:
___
Family History:
Reviewed and none pertinent to this hospitalization
 
Physical Exam:
gen-frail, appearing nad, cooperative
vitals-reviewed in VSS flowsheet
97.9
PO 126 / 71 68 22 96 2lnc  
heent-ncat eomi anicteric MMM 
respiratory-bl ae minimal expiratory wheezing
cardiovascular-s1s2 rr no m/r/g
abdomen-+bs, soft, NT, ND, no guarding or rebound
ext-no cce 2+pulses
neuro-AAox1.5, moves all extremities, resting tremor
psych-calm, cooperative 
skin- no apparent rashes
 
Pertinent Results:
___ 05:52AM BLOOD WBC-10.4* RBC-3.84* Hgb-11.3 Hct-35.6 
MCV-93 MCH-29.4 MCHC-31.7* RDW-15.5 RDWSD-52.0* Plt ___
___ 11:47AM BLOOD Neuts-71.3* Lymphs-18.6* Monos-8.9 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-8.32* AbsLymp-2.17 
AbsMono-1.04* AbsEos-0.06 AbsBaso-0.02
___ 11:47AM BLOOD ___ PTT-26.1 ___
___ 05:52AM BLOOD Glucose-107* UreaN-25* Creat-0.6 Na-139 
K-4.0 Cl-99 HCO3-28 AnGap-12
___ 11:47AM BLOOD cTropnT-<0.01
___ 05:52AM BLOOD Phos-3.2 Mg-2.4

CXR:  
IMPRESSION:  
No convincing signs of pneumonia. 

EKg:overall similar to prior

 
Brief Hospital Course:
___ with PMH ___ disease, esophageal dysmotility, 
reactive airway disease, recent admission for UTI who presented 
to the ED with cough and hypoxemia, overall stable without 
convincing signs for bacterial infection.

Acute hypoxic respiratory failure - due to
Likely viral URI and reactive airway disease 
Possible viral pneumonia 
Overall stable with supportive care.  No 02 requirement. She 
likekly had a viral URI given negative CXR and re-assuring 
infectious evaluation.  She may also have a contributing from 
her chronic aspiration.  She was placed on Prednisone 60mg daily 
with supportive care.  She remained stable.  She was cleared for 
home post ___ evaluation.
- Prednisone taper 60mg x5 days, then decrease by 10mg every 2 
days until she returns back to her baseline 10mg daily

___ disease:
- continued home meds

Esophageal dysmotility:
Previously found to have esophageal retention of barium on video 
swallow and esophageal reflux causing her to aspirate, 
triggering reactive airway disease. Prior EGD revealed 
presbyesophagus and atrophic gastritis. Has hiatal hernia, not 
surgical candidate.  She had past video swallows and she remains 
an aspiration risk, and had an episode here prior to discharge 
which appeared to be reflux and responded to Mylanta.  Her usual 
diet was maintained of ground solids and thin liquids.

Chronic Sacral ulcer:
- known on last admission. Wound care. Healing, without 
exposed/raw tissue, per nursing.  

Recent encephalopathy:
- oriented to self at baseline. 
- minimized any sedating medications. 

Hypothyroidism-levothyroxine

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sucralfate 1 gm PO TID 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. Multivitamins W/minerals 1 TAB PO DAILY 
4. Perforomist (formoterol fumarate) 20 mcg/2 mL inhalation BID 
5. ALPRAZolam 0.25 mg PO BID:PRN anxiety 
6. Atorvastatin 20 mg PO QPM 
7. Carbidopa-Levodopa (___) 1 TAB PO 5X/DAY 
8. Hyoscyamine 0.125 mg SL TID:PRN abd pain 
9. Ipratropium Bromide Neb 1 NEB IH Q6H 
10. Levalbuterol Neb 0.63 mg NEB Q6H:PRN sob 
11. Levothyroxine Sodium 25 mcg PO DAILY 
12. melatonin 3 mg oral QHS 
13. TraZODone 25 mg PO QHS:PRN insomnia 
14. Nexium 40 mg Other DAILY 
15. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
16. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Mild 
17. PredniSONE 20 mg PO DAILY 
18. carbidopa 25 mg oral DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Viral URI
Hypoxia
Reactive airways
Esophageal dysmotility

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Patient was admitted with shortness of breath and low oxygen 
levels, likely caused by a viral infection and reaction in the 
lung.  We recommend a taper of steroids and to continue her 
usual medications.  We recommend follow up with her PCP ___ 1 
week, and to follow up with her pulmonologist as scheduled

Taper prednisone as follows:
Prednisone 60mg x2 more days, then 50mg x2 days, then 40mgx2 
days, then 30mgx2 days, then 20mg x2 days, then resume 10mg 
daily
 
Followup Instructions:
___